US06809110B2
In analogy to the procedure described in example 10 c], [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester (example 10 b]) was reacted with 2-[2-(4-isopropyl-phenyl)-thiazol-4-yl]-ethanol in the presence of triphenylphosphine and diethyl azodicarboxylate to yield [rac]-2-ethoxy-3-(4-{2-[2-(4-isopropyl-phenyl)-thiazol-4-yl]-ethoxy}-2-methyl-phenyl)-propionic acid ethyl ester as colorless oil.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)O)C)OCC)=O | C14H20O4
reactant | 2-[2-(4-isopropyl-phenyl)-thiazol-4-yl]-ethanol | C(C)(C)C1=CC=C(C=C1)C=1SC=C(N1)CCO | C14H17NOS
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | [rac]-2-ethoxy-3-(4-{2-[2-(4-isopropyl-phenyl)-thiazol-4-yl]-ethoxy}-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCCC=1N=C(SC1)C1=CC=C(C=C1)C(C)C)C)OCC)=O | C28H35NO4S
